US09428510B2
A mixture of 1 g of 5-methoxynicotinonitrile (7.46 mmol) and 8.62 g of pyridine hydrochloride is heated at 200° C. for 2 hours. The crude reaction product is diluted in a water fraction several times with diethyl ether. The aqueous phase is basified by adding sodium bicarbonate and then extracted again with diethyl ether. The organic phase is dried and then concentrated to yield 850 mg of 5-hydroxynicotinonitrile (95%) in the form of a beige solid.

reactant | 5-methoxynicotinonitrile | 7.46 mmol, 1 g | COC=1C=NC=C(C#N)C1 | C7H6N2O
reactant | pyridine hydrochloride | 8.62 g | Cl.N1=CC=CC=C1
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-hydroxynicotinonitrile | 850 mg, 95% | OC=1C=NC=C(C#N)C1 | C6H4N2O
